US06090813
Triethylamine (2.92 ml) was added to a mixture of 1-(6-chloronaphth-2-ylsulphonyl)piperazine hydrochloride (6.93 g) in dichloromethane (100 ml). 1-(1-(t-butoxycarbonyl)piperidin-4-ylcarbonyloxy)-2,5-dioxopyrrolidine (6.25 g) was added and the mixture stirred overnight. The mixture was evaporated to give a solid which was suspended in ethyl acetate (200 ml). Water (50 ml) was added and the ethyl acetate phase separated, washed with water (4×50 ml), brine (50 ml), dried (MgSO4) and evaporated. The residue was purified by flash chromatography on silica gel using a 75:25 mixture of ethyl acetate/hexane as eluent to give 1-(t-butoxycarbonyl)-4-(1-(6-chloronaphth-2-ylsulphonyl)piperazin-4-ylcarbonyl)piperidine (8.1 g);

reactant | Triethylamine | 2.92 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(6-chloronaphth-2-ylsulphonyl)piperazine hydrochloride | 6.93 g | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
reactant | 1-(1-(t-butoxycarbonyl)piperidin-4-ylcarbonyloxy)-2,5-dioxopyrrolidine | 6.25 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)ON1C(CCC1=O)=O | C15H22N2O6
reactant | Water | 50 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-(t-butoxycarbonyl)-4-(1-(6-chloronaphth-2-ylsulphonyl)piperazin-4-ylcarbonyl)piperidine | 8.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C25H32ClN3O5S
